US04460594
A solution of 1-[2-(1H-indol-3-yl)ethyl]-3-(3-methoxy phenyl) piperidine hydrochloride (1.4 g) in dichloromethane (500 ml) at -78° C. was treated dropwise with borontribromide (8 g) and the solution was allowed to warm up to room temperature over 2.5 hour. Water (5 ml) was added cautiously and the precipitate was filtered, washed with dichloromethane and water, dissolved in 10% sodium hydroxide solution (25 ml), acidified to pH 10 with 5N hydrochloric acid. The precipitate was collected, washed with water, to give 3-(1-[2-(1H-3-indolyl) ethyl]-3-piperidyl) phenol 1.2 g, m.p. 130°-135° C.

reactant | 1-[2-(1H-indol-3-yl)ethyl]-3-(3-methoxy phenyl) piperidine hydrochloride | 1.4 g | Cl.N1C=C(C2=CC=CC=C12)CCN1CC(CCC1)C1=CC(=CC=C1)OC
reactant | Water | 5 ml | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-(1-[2-(1H-3-indolyl) ethyl]-3-piperidyl) phenol | 1.2 g | N1C=C(C2=CC=CC=C12)CCN1CC(CCC1)C=1C=C(C=CC1)O | C21H24N2O
